US05759956
24.5 g of 2,4-dichloro-6-methylpyrimidine and 9.8 g of potassium cyanide were dissolved in 150 ml of CH3CN and refluxed for 8 days. The solvent was evaporated, the residue was dissolved in 150 ml of ethyl acetate and extracted twice with 50 ml H2O. The organic layer was dried over Na2SO4, the solvent was evaporated and the residue was purified on silica gel using a 4:1 mixture of benzene and methyl tert.butyl ether as eluent to give 5.2 g (24.8%) of 2-chloro-4-cyano-6-methyl pyrimidine of m.p. 57° C.

reactant | 2,4-dichloro-6-methylpyrimidine | 24.5 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | potassium cyanide | 9.8 g | [C-]#N.[K+]
solvent | CH3CN | 150 ml | CC#N | C2H3N
product | 2-chloro-4-cyano-6-methyl pyrimidine | 5.2 g, 24.8% | ClC1=NC(=CC(=N1)C#N)C | C6H4ClN3
